Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: CARDIOTHORACIC
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
chest pain
 
Major Surgical or Invasive Procedure:
___  1. Urgent coronary artery bypass graft x3, left 
internal
    mammary artery to left anterior descending artery, right
    internal mammary artery to distal right coronary artery,
    and saphenous vein graft to obtuse marginal artery.
2. Endoscopic harvesting of the long saphenous vein.

___ Cardiac catheterization 

 
History of Present Illness:
___ year old male with a cardiac risk factor history of HTN (not 
compliant with meds), dyslipidemia, obesity, and FH of premature 
CAD  presenting with intermittent exertional chest pain of 5 
days duration. 5 days PTA, he was in a fire and pulling out a 
hose when he suddenly felt a ___ squeezing sensation in his 
chest which radiated to his neck and jaw. He also had associated 
SOB. Upon leaving work and on his way back to the fire house he 
had chest pain again and was seen at the ___ ED and had a 
normal EKG and negative  troponins x2. A stress test was 
suggested to further characterize but pt decided to leave the 
hospital. He went to see his PCP yesterday who suggested he come 
back to the ED for coronary angiography.  Throughout the 
weekend, pt has noted some SOB, lightheadedness and intermittent 
chest pain sometimes occurring with rest. The pain is less 
severe than it was on ___, however it is a ___ "poking" 
pain, made worse with exertion and better with rest. At 
baseline, he does significant exercise for his work. Neither 
changes in position nor palpation make it better or worse. He 
denies pleuritic chest pain. He has previously experienced GERD 
and reports that this pain is different than his reflux sx. He 
denies any orthopnea or nocturnal dyspnea. His ROS is 
pan-negative except as mentioned above, though he does endorse 
some fatigue over the past month that is not associated with 
weight loss, fevers, or night sweats. 

In ___, pt had a stress test at ___, which 
noted horizontal/downsloping ST depressions in II/III/avF and 
V6. On the perfusion images, there was a small area of decreased 
perfusion in the ___ region, was going to get a cath 
but due to scheduling difficulties, did not. Was seen one time 
by a cardiologist (___) who started him on atorvastatin and 
aspirin which he discontinued. 

In the ED initial vitals were: Pain 3, T97.9, HR84, BP 135/84, 
RR 16 97% RA  
EKG: NSR w/ nonspecific T wave inversion in III, <1mm STE in I 
c/w prior on ___  
Labs/studies notable for: Trop negative, UA bacteria but neg 
___, WBC 7.6, Hgb 14.4, Cr 0.7  
Patient was given: ASA 325mg, atorvastatin 40 mg., acetaminophen 
for pain
Vitals on transfer: pain 3, T97.7, HR93, BP139/82, RR27, 97% RA  

On the floor, continues to have chest pain 3 out of 10.  
 
Past Medical History:
GERD
Hyperlipidemia
Hypertension
Obesity 
 
Social History:
___
Family History:
Mother: deceased CAD (___), DM, CJD  
Father: Alive w/ CAD (___), DM  
Brother: high cholesterol  
MGM: 85 MI  
MGF: 77 MI  
PGF: 80 ?MI  
Sister: ___ MI  

 
Physical Exam:
On admission:
PHYSICAL EXAM:  
GENERAL: WDWN male in NAD.  
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were 
pink, no pallor or cyanosis of the oral mucosa. No xanthelasma.  

NECK: Supple with no visible JVD  
CARDIAC: RRR, normal S1, S2. No murmurs/rubs/gallops. No 
thrills, lifts.  
LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp 
were unlabored, no accessory muscle use. No crackles, wheezes or 
rhonchi.  
ABDOMEN: Soft, NTND w/o rebound/garuding.  
EXTREMITIES: No c/c/e. Moving all extremities No femoral bruits. 
 
NEURO: AOx3, CNII-XII intact.  
SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.  
PULSES: Distal pulses palpable and symmetric  
LABS: see below  
MICRO: see below  
EKG: Nonspecific TWI in III and <1mm STE in I o/w NSR, normal 
axis and intervals w/ late R wave transition  
Discharge physcial exam
Vital signs: temp 98.1, HR 82 SBP 135/76 RA 94%
Dischareg wgt: 109.8 kg  preop 109.8

Neuro: non focal A&O x 3
Resp:diminished bases
CV: S1 s2 no JVD
GI: abd soft + BS +BM
GU: voiding clear yellow urine
Ext: trace lower ext edema
Sternal incision and right EVH healing no erythema or drainage 

 
 
Pertinent Results:
___ TTE
PREBYPASS:
 Normal LV systolic function, with LVEF>55% and no segmental 
wall motion abnormalities. Normal valves. Right ventricular 
chamber size and free wall motion are normal. The aortic valve 
leaflets (3) appear structurally normal with good leaflet 
excursion and no aortic stenosis or aortic regurgitation. The 
mitral valve appears structurally normal with trivial mitral 
regurgitation. There is no pericardial effusion. No clot seen in 
the ___. Normal coronary sinus. Intact interatrial septum.

 POSTBYPASS:
 LVEF>55%. No disection seen following removal of the aortic 
cannula. No new wall motion abnormalities following chest 
closure. Otherwise unchanged. 

___ PA&Lat
Stable postoperative mediastinal widening.  Small bilateral 
effusions are 
unchanged.  Bibasilar atelectasis is improved. 
 
___ 04:59AM BLOOD WBC-7.5 RBC-3.21* Hgb-8.3* Hct-26.4* 
MCV-82 MCH-25.9* MCHC-31.4* RDW-14.5 RDWSD-42.3 Plt ___
___ 05:20PM BLOOD WBC-7.6 RBC-5.61 Hgb-14.4 Hct-44.5 
MCV-79* MCH-25.7* MCHC-32.4 RDW-12.8 RDWSD-36.5 Plt ___
___ 11:06AM BLOOD ___ PTT-150* ___
___ 04:59AM BLOOD UreaN-17 Creat-0.8 Na-135 K-4.4 Cl-97
___ 05:20PM BLOOD Glucose-98 UreaN-20 Creat-0.7 Na-136 
K-4.3 Cl-102 HCO3-27 AnGap-11
___ 01:27AM BLOOD PTT-72.9*
___ 05:20PM BLOOD VitB12-423
___ 09:10AM BLOOD %HbA1c-5.9 eAG-123
___ 08:11AM BLOOD Triglyc-384* HDL-35 CHOL/HD-7.0 
LDLcalc-134*
 
Brief Hospital Course:
Presented with chest pain and underwent cardiac catheterization 
that revealed significant coronary artery disease.  Cardiac 
surgery was consulted and he underwent preoperative workup.  On 
___ was taken to the operating room  for coronary artery 
bypass graft surgery.  Please see operative report for further 
surgical details. Overall the patient tolerated the procedure 
well and post-operatively was transferred to the CVICU in stable 
condition for recovery and invasive monitoring. He required 
vasoactive medications for blood pressure management that were 
weaned off post operative day one.  Early in the morning on post 
operative day one he was weaned from sedation, awoke 
neurologically intact and was extubated without complications.  
He was started on betablocker and diuretic, continued to 
progress and later that day was transferred to the floor.  
Chest tubes and pacing wires were discontinued without 
complication.  The patient was evaluated by the physical therapy 
service for assistance with strength and mobility. He was 
postoperatively anemic, likely due to volume resuscitation, and 
he deferred transfusion. However on post operative day five he 
was feeling symptomatic on ambulation with increased fatigue and 
lightheadedness. He was transfused one unit of packed red blood 
cells, with resolution.  He continued to improve and was ready 
for discharge home with services on post operative day six.  

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. albuterol sulfate 90 mcg/actuation inhalation Q4H:PRN SOB 
2. Omeprazole 20 mg PO DAILY 
3. Atorvastatin 40 mg PO QPM 

*Of note, pt reports not taking any of these medications despite 
having prescriptions
 
Discharge Medications:
1. Atorvastatin 80 mg PO QPM 
RX *atorvastatin 80 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*1
2. Aspirin EC 81 mg PO DAILY 
3. Docusate Sodium 100 mg PO BID 
4. TraMADOL (Ultram) 50 mg PO Q4H:PRN pain 
RX *tramadol [Ultram] 50 mg 1 tablet(s) by mouth every four (4) 
hours Disp #*40 Tablet Refills:*0
5. Ibuprofen 600 mg PO Q8H:PRN pain 
take with food 
6. Furosemide 40 mg PO DAILY Duration: 5 Days 
RX *furosemide 40 mg 1 tablet(s) by mouth once a day Disp #*5 
Tablet Refills:*0
7. Guaifenesin ER 600 mg PO Q12H 
RX *guaifenesin 600 mg 1 tablet(s) by mouth twice a day Disp 
#*14 Tablet Refills:*0
8. albuterol sulfate 90 mcg/actuation INHALATION Q4H:PRN SOB 
9. Omeprazole 20 mg PO DAILY 
10. Polyethylene Glycol 17 g PO DAILY 
hold for loose stools  
11. Metoprolol Tartrate 50 mg PO BID 
RX *metoprolol tartrate [Lopressor] 50 mg 1 tablet(s) by mouth 
twice a day Disp #*60 Tablet Refills:*1
12. HYDROmorphone (Dilaudid) ___ mg PO Q3H:PRN pain 
RX *hydromorphone [Dilaudid] 2 mg ___ tablet(s) by mouth q3h 
Disp #*80 Tablet Refills:*0

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Coronary artery disease s/p revascularization
Anemia acute blood loss 

Secondary Diagnosis 
Hypertension 
Hyperlipidemia 

 
Discharge Condition:
Alert and oriented x3 nonfocal
Ambulating, gait steady
Sternal pain managed with dilaudid, tylenol, ultram
Sternal Incision - healing well, no erythema or drainage
Right leg incision- healing well, no erythema or drainage
Edema trace edema

 
Discharge Instructions:
Please shower daily including washing incisions gently with mild 
soap, no baths or swimming, and look at your incisions
Please NO lotions, cream, powder, or ointments to incisions
Each morning you should weigh yourself and then in the evening 
take your temperature, these should be written down on the chart
No driving for approximately one month and while taking 
narcotics, will be discussed at follow up appointment with 
surgeon when you will be able to drive
No lifting more than 10 pounds for 10 weeks
Please call with any questions or concerns ___
**Please call cardiac surgery office with any questions or 
concerns ___. Answering service will contact on call 
person during off hours**

 
Followup Instructions:
___